US04598090
3-(4-nitro-benzylidene)-1,2,3,9-tetrahydro-9-oxo-cyclopenta[b][1]benzopyran-7-carboxylic acid, methyl ester (3.8 g), was reacted with SnCl2.2H2O (11.5 g) in acetic acid (130 ml) and 37% HCl (26.5 ml) under stirring at 60° C. for 3 hours: after cooling the precipitate was filtered and washed with 2N HCl and water finely dispersed in 2N NaOH. The precipitate was filtered and washed with water until neutral to give 3-(4-amino-benzylidene)-1,2,3,9-tetrahydro-9-oxo-cyclopenta[b][1]benzopyran-7-carboxylic acid, methyl ester m.p. 265°-268° C. (2.9 g), which was treated with 37% HCl (60 ml) in acetic acid (120 ml) under stirring at 100° C. for 4 hours. After cooling the precipitate was filtered and then suspended under stirring in water containing Na2HPO4 : the precipitate was filtered and washed with water to give 2.1 g of 3-(4-amino-benzylidene)-1,2,3,9tetrahydro-9-oxo-cyclopenta[b][1]benzopyran-7-carboxylic acid, m.p. 360° C. dec., NMR (DMSO d6) δppm: 2.90 (m) (4H, C-1 and C-2 protons), 3.30 (bs) (2H, NH2), 6.64 (d) (2H, C-3 and C-5 phenyl protons), 7.01 (bs) (1H=CH--), 7.31 (d) (2H, C-2 and C-6 phenyl protons, 7.69 (d) (1H, C-5 proton), 8.19 (dd) (1H, C-6 proton), 8.59 (d) (1H, C-8 proton).

reactant | 3-(4-nitro-benzylidene)-1,2,3,9-tetrahydro-9-oxo-cyclopenta[b][1]benzopyran-7-carboxylic acid, methyl ester | 3.8 g | [N+](=O)([O-])C1=CC=C(C=C2CCC3=C2OC2=C(C3=O)C=C(C=C2)C(=O)OC)C=C1 | C21H15NO6
reactant | SnCl2.2H2O | 11.5 g | O.O.Cl[Sn]Cl
solvent | acetic acid | 130 ml | C(C)(=O)O | C2H4O2
solvent | HCl | 26.5 ml | Cl | ClH
product | 3-(4-amino-benzylidene)-1,2,3,9-tetrahydro-9-oxo-cyclopenta[b][1]benzopyran-7-carboxylic acid, methyl ester | 2.9 g | NC1=CC=C(C=C2CCC3=C2OC2=C(C3=O)C=C(C=C2)C(=O)OC)C=C1 | C21H17NO4
